US09334279B2
To a dry 10 mL Schlenk flask equipped with a stir bar and placed under N2 atmosphere was added 2-bromo-5-methylthiazole (244 mg, 1.37 mmol) in THF (5 mL). The flask was cooled to −78° C. To the solution was added n-butyllithium in hexanes (0.55 mL, 1.37 mmol). The solution was stirred for 15 minutes. To the solution was added zinc(II) chloride in THF (2.74 mL, 1.37 mmol). The solution was immediately allowed to warm to r.t. (using a r.t. water bath) with stirring for 30 min. To the solution was added 2-chloro-4-fluoropyridine (150 mg, 1.14 mmol), then Pd(dppf)Cl2 (42 mg, 0.057 mmol). The vial was placed in a 60° C. heating block with stirring for 2.25 h. The reaction solution was transfered to a 125 mL separatory funnel and was diluted with Et2O (20 mL). The solution was washed with sat. aq. NaHCO3 (20 mL). The aq. phase was extracted with EtOAc (25 mL). The combined organics were washed with brine (20 mL); dried over MgSO4; filtered; then concentrated in vacuo to afford an orange residue. This material was subjected to silica gel chromatography (hexanes:EtOAc, 100:0 to 80:20) to afford 2-(4-fluoropyridin-2-yl)-5-methylthiazole as a white solid (54 mg, 24%). 1H-NMR (400 MHz, CDCl3) δ 8.55 (dd, J=8.2, 5.4 Hz, 1H), 7.91-7.82 (m, 1H), 7.62-7.56 (m, 1H), 7.02 (ddd, J=8.2, 5.6, 2.5 Hz, 1H), 2.55 (d, J=1.3 Hz, 3H).

reactant | 2-bromo-5-methylthiazole | 1.37 mmol, 244 mg | BrC=1SC(=CN1)C | C4H4BrNS
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-chloro-4-fluoropyridine | 1.14 mmol, 150 mg | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | Et2O | 20 mL | CCOCC | C4H10O
catalyst | zinc(II) chloride | [Cl-].[Zn+2].[Cl-]
catalyst | Pd(dppf)Cl2 | 0.057 mmol, 42 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | THF | 1.37 mmol, 2.74 mL | C1CCOC1 | C4H8O
product | 2-(4-fluoropyridin-2-yl)-5-methylthiazole | 54 mg, 24% | FC1=CC(=NC=C1)C=1SC(=CN1)C | C9H7FN2S
